US06713496B2
tert-Butyl [2-(dimethylamino)ethoxy]acetate
N,N-Dimethylethanolamine (5.02 ml, 50 mmol) was added dropwise over 5 minutes to an ice-cooled suspension of sodium hydride (2.2 g, 60% dispersion in mineral oil, 55 mmol) in tetrahydrofuran (100 ml), and the solution was stirred for 30 minutes. tert-Butyl bromoacetate (7.38 ml, 50 mmol) was added dropwise over 5 minutes, then the mixture was allowed to warm to room temperature and stirred for a further 18 hours. The mixture was pre-adsorbed onto silica gel, and purified by column chromatography on silica gel using an elution gradient of pentane:ethyl acetate:methanol (50:50:0 to 0:100:0 to 0:80:20) to afford the title compound as a yellow oil, 1.46 g. 1H-NMR (CDCl3, 400 MHz) δ: 1.50 (s, 9H), 2.30 (s, 6H), 2.59 (t, 2H), 3.64 (t, 2H) 4.00 (s, 2H). LRMS: m/z (ES+) 204 [MH+]

reactant | N,N-Dimethylethanolamine | 50 mmol, 5.02 ml | CN(CCO)C | C4H11NO
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | tert-Butyl bromoacetate | 50 mmol, 7.38 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-Butyl [2-(dimethylamino)ethoxy]acetate | CN(CCOCC(=O)OC(C)(C)C)C | C10H21NO3
